US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-dimethylamino-ethyl)-amide
The title compound was prepared from 2-dimethylaminoethyl amine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 284/286 (MH+); HPLC Rf: 3.47 min.; HPLC purity: 95%.

reactant | 2-dimethylaminoethyl amine | CN(CCN)C | C4H12N2
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C1=CC2=NC=CC(=C2S1)Cl)C | C12H14ClN3OS
